US06464731B1
A mixture of 8.8 g (0.041 mol) of diethyl(4-fluoro-3-nitrophenyl)amine obtained in the preceding stage, 17.0 g (0.136 mol) of 3-(imidazol-1-yl)propylamine (RN 5036-48-6) and 6.7 ml of triethylamine was heated at reflux with stirring for 2 hours.

reactant | diethyl(4-fluoro-3-nitrophenyl)amine | 0.041 mol, 8.8 g | C(C)N(C1=CC(=C(C=C1)F)[N+](=O)[O-])CC | C10H13FN2O2
reactant | triethylamine | 6.7 ml | C(C)N(CC)CC | C6H15N
product | 3-(imidazol-1-yl)propylamine | 0.136 mol, 17.0 g | N1(C=NC=C1)CCCN | C6H11N3
